US20010049371A1
3-(3-Ethoxy-4-methoxyphenyl)-3-(3,6-difluorophthalimido)-N-hydroxypropionamide was prepared by the procedure of Example 1 from 3-(3-ethoxy-4-methoxyphenyl)-3-(3,6-difluorophthalimido)propanoic acid (580 mg, 1.43 mmol), carbonyldiimidazole (255 mg, 1.57 mmol) and hydroxylamine hydrochloride (120 mg, 1.73 mmol) in tetrahydrofuran (8 mL) to afford 3-(3-ethoxy-4-methoxyphenyl)-3-(3,6-difluorophthalimido)-N-hydroxypropionamide as a white solid (340 mg, 57% yield): mp, 171.0-172.0° C.; 1H NMR (DMSO-d6) δ1.32 (t, J=6.9 Hz, 3H, CH3), 3.03 (dd, J=7.9, 14.8 Hz, 1H, CHH), 3.16 (dd, J=8.1, 14.9 Hz, 1H, CHH), 3.71 (s, 3H, CH3), 3.91 (q, J=6.9 Hz, 2H, CH2), 5.62 (t, J=7.8 Hz, 1H, NCH), 6.878-6.95 (m, 2H, Ar), 6.99 (br s, 1H, Ar), 7.74 (t, JH-F=5.8 Hz, 2H, Ar), 8.81 (br s, 1H, OH), 10.61 (br s, 1H, NH); 13C NMR (DMSO-d6) δ14.64, 33.88, 50.29, 55.44, 63.71, 111.64, 112.44, 118.02 (t, JC-F=9.2 Hz), 119.77, 125.47 (t, JC-F=15 Hz), 130.42, 147.65, 148.59, 152.93 (dd, JC-F=4.2, 261 Hz), 163.49, 165.84; Anal Calcd for C20H18N2O6F2: C, 57.14; H, 4.32; N, 6.66. Found: C, 56.93; H, 4.37; N, 6.31.

reactant | 3-(3-ethoxy-4-methoxyphenyl)-3-(3,6-difluorophthalimido)propanoic acid | 1.43 mmol, 580 mg | C(C)OC=1C=C(C=CC1OC)C(CC(=O)O)N1C(C=2C(C1=O)=C(C=CC2F)F)=O | C20H17F2NO6
reactant | carbonyldiimidazole | 1.57 mmol, 255 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | hydroxylamine hydrochloride | 1.73 mmol, 120 mg | Cl.NO
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 3-(3-ethoxy-4-methoxyphenyl)-3-(3,6-difluorophthalimido)-N-hydroxypropionamide | 340 mg, 57% yield | C(C)OC=1C=C(C=CC1OC)C(CC(=O)NO)N1C(C=2C(C1=O)=C(C=CC2F)F)=O | C20H18F2N2O6
